US20010014737A1
a) 2-[(3-hydroxy-1-propyl)amino]-4-methylpyridine-N-oxide
A mixture of 2-chloro-4-methylpyridine-N-oxide (12.1 g, 0.068 mole) (Brown, E. V. Amer. Chem. Soc. 1957, 79, 3565), 3-amino-1-propanol (10.33 mL, 0.14 mole), NaHCO3 (28 g, 0.34 mole), and tert-amyl alcohol (70 mL) was heated to reflux. After 16 hr, the reaction was cooled, diluted with CH2Cl2 (300 mL), and suction filtered to remove insoluble materials. The filtrate was concentrated and reconcentrated from toluene to leave a yellow oil. Recrystallization from CH2Cl2/Et2O gave the title compound (10.87 g, 88%) as a yellow solid: TLC (15% MeOH/CH2Cl2) Rf 0.44; 1H NMR (400, CDCl3) δ7.92 (d, J =6.7, 1 H), 7.28 (br t, 1 H), 6.43 (s, 1 H), 6.33 (dd, J=6.6, 2.1 Hz, 1 H), 3.73 (t, J=5.7 Hz, 2 H), 3.47 (q, H=6.3 Hz, 2 H), 2.29 (s, 3 H), 1.82 - 1.88 (m, 2 H); MS (ES) m/e 183 (M+ H)+.

reactant | 2-chloro-4-methylpyridine-N-oxide | 0.068 mole, 12.1 g | ClC1=[N+](C=CC(=C1)C)[O-] | C6H6ClNO
reactant | 3-amino-1-propanol | 0.14 mole, 10.33 mL | NCCCO | C3H9NO
reactant | NaHCO3 | 0.34 mole, 28 g | C(=O)(O)[O-].[Na+]
reactant | tert-amyl alcohol | 70 mL | C(C)(C)(CC)O | C5H12O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3-hydroxy-1-propyl)amino]-4-methylpyridine-N-oxide | 10.87 g, 88% | OCCCNC1=[N+](C=CC(=C1)C)[O-] | C9H14N2O2
